datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C([O-])CCC#CC#CCCCC[NH2:10].c1cc[n+]2oc([NH:21][H:20])nc2c1>>O=C([O-])CCC#CC#CCCCC[NH2+:10][H:20].c1cc[n+]2oc([NH-:21])nc2c1 10=20;20,21=21",
"CN(C)/C=[N:10]\c1cccc(Br)c1.[NH3+]CC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O:21][H:20]>>CN(C)/C=[N+:10](\c1cccc(Br)c1)[H:20].[NH3+]CC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O-:21] 10=20;20,21=21",
"CC(C)[N+:21](CCC(c1ccccc1)c1ccccn1)(C(C)C)[H:20].c1ncc(CC[NH2:10])[nH]1>>CC(C)[N:21](CCC(c1ccccc1)c1ccccn1)C(C)C.c1ncc(CC[NH2+:10][H:20])[nH]1 10=20;20,21=21",
"CC(C)(C(=O)[O-])[NH:10]C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(C)(C(=O)[O-])[NH+:10](C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ncc(CC[NH2:10])[nH]1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ncc(CC[NH2+:10][H:20])[nH]1 10=20;20,21=21",
"COc1cc(Br)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC.Cc1cc(C)c2c(c(NCCC[NH+](C)C)cc[n+:21]2[H:20])c1[N+](=O)[O-]>>COc1cc(Br)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC.Cc1cc(C)c2c(c(NCCC[NH+](C)C)cc[n:21]2)c1[N+](=O)[O-] 10=20;20,21=21",
"COc1ccc2c(c1)C(O)[N+:21](C)([H:20])C=C2.Nc1ccc2ccn[n:10]c2c1>>COc1ccc2c(c1)C(O)[N:21](C)C=C2.Nc1ccc2ccn[n+:10]([H:20])c2c1 10=20;20,21=21",
"CC1=CC=CC(=O)C([O-:10])=C1.COC(=O)Nc1ncnc2c1[nH]c[n+:21]2[H:20]>>CC1=CC=CC(=O)C([O:10][H:20])=C1.COC(=O)Nc1ncnc2c1[nH]c[n:21]2 10=20;20,21=21",
"O=[N+]([O-])c1cccc2c1c(NCCCO)cc[n:10]2.c1ccc(C2SCC[NH+:21]2[H:20])cc1>>O=[N+]([O-])c1cccc2c1c(NCCCO)cc[n+:10]2[H:20].c1ccc(C2SCC[NH:21]2)cc1 10=20;20,21=21",
"COCc1nc2c(n1C)C(=O)c1nc[n:10]c([O-])c1C2=O.Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([S-])[n+:21]1[H:20]>>COCc1nc2c(n1C)C(=O)c1nc[n+:10]([H:20])c([O-])c1C2=O.Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([S-])[n:21]1 10=20;20,21=21",
"CC(O)C[NH:10]CCN.O=[N+]([O-])c1cc(Cl)c([NH2+:21][H:20])c(Cl)c1>>CC(O)C[NH+:10](CCN)[H:20].O=[N+]([O-])c1cc(Cl)c([NH2:21])c(Cl)c1 10=20;20,21=21",
"C[N:10](c1ccccc1)C1CCCC1.c1ccc2cc3c(ccc[n+:21]3[H:20])cc2c1>>C[N+:10](c1ccccc1)(C1CCCC1)[H:20].c1ccc2cc3c(ccc[n:21]3)cc2c1 10=20;20,21=21",
"O=C(C[N:10]1CCOCC1)c1ccccc1.c1ccc2c(c1)ccc1ccc[n+:21]([H:20])c12>>O=C(C[N+:10]1([H:20])CCOCC1)c1ccccc1.c1ccc2c(c1)ccc1ccc[n:21]c12 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].[S-]CC[NH:10]CCc1ccccc1>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.[S-]CC[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
"CC(C)(/C=C/C(=O)[O-])c1cc([N+](=O)[O-])ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(/C=C/C(=O)[O-])c1cc([N+](=O)[O-])ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)N/C=[NH+]/c1ccc(-c2c[n+:21]([H:20])cn2C)cc1.OB(c1cccc(O)c1)[O-:10]>>CC(C)N/C=[NH+]/c1ccc(-c2c[n:21]cn2C)cc1.OB(c1cccc(O)c1)[O:10][H:20] 10=20;20,21=21",
"C=CC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=CC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc(C#N)cc(C)c1[O:21][H:20].Cc1ccc([N-:10]C(=S)c2cccc(Br)c2)cc1>>Cc1cc(C#N)cc(C)c1[O-:21].Cc1ccc([N:10](C(=S)c2cccc(Br)c2)[H:20])cc1 10=20;20,21=21",
"Clc1ccc(C2SCC[NH:10]2)cc1.c1ccc2sc(/N=N/c3ccc([O:21][H:20])c4ncccc34)nc2c1>>Clc1ccc(C2SCC[NH+:10]2[H:20])cc1.c1ccc2sc(/N=N/c3ccc([O-:21])c4ncccc34)nc2c1 10=20;20,21=21",
"CC(CN(C)C)[N:10](C)C.Cn1cc([NH2+:21][H:20])cc1C(=O)[O-]>>CC(CN(C)C)[N+:10](C)(C)[H:20].Cn1cc([NH2:21])cc1C(=O)[O-] 10=20;20,21=21",
"COCc1cccc(COC)[n+:21]1[H:20].C[Si](C)(CCN)O[Si](C)(C)CC[NH2:10]>>COCc1cccc(COC)[n:21]1.C[Si](C)(CCN)O[Si](C)(C)CC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])=C1>>CC(C)(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)=C1 10=20;20,21=21",
"CC(C)[C@@H]1CC[C@@H](C)C[C@@H]1[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)[C@@H]1CC[C@@H](C)C[C@@H]1[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCN(CC)CCC[N+:21](CC)(CC)[H:20].CC[C@@H](C(=O)[O-:10])[C@@]1(O)C[C@H]2CC[C@@H]1C2>>CCN(CC)CCC[N:21](CC)CC.CC[C@@H](C(=O)[O:10][H:20])[C@@]1(O)C[C@H]2CC[C@@H]1C2 10=20;20,21=21",
"C=Cc1cc[n+:21]([H:20])cc1.CC(=O)c1cccc([N-:10]C(N)=S)c1>>C=Cc1cc[n:21]cc1.CC(=O)c1cccc([N:10](C(N)=S)[H:20])c1 10=20;20,21=21",
"Cc1nn(C)c(N(C)C(=O)C[NH2:10])c1C(=O)c1ccccc1F.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Cc1nn(C)c(N(C)C(=O)C[NH2+:10][H:20])c1C(=O)c1ccccc1F.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC[N:10](CC)CCBr.NC(Cc1nc[n:21]([H:20])c1I)C(=O)[O-]>>CC[N+:10](CC)(CCBr)[H:20].NC(Cc1nc[n-:21]c1I)C(=O)[O-] 10=20;20,21=21",
"O=C1CCCC(=O)[N-:10]1.O=[N+]([O-])c1cccc(-c2nnn[n:21]2[H:20])c1>>O=C1CCCC(=O)[N:10]1[H:20].O=[N+]([O-])c1cccc(-c2nnn[n-:21]2)c1 10=20;20,21=21",
"Brc1ccc(-c2nnn[n:21]2[H:20])cc1.O=C([O-])C1CC[NH:10]C1>>Brc1ccc(-c2nnn[n-:21]2)cc1.O=C([O-])C1CC[NH+:10]([H:20])C1 10=20;20,21=21",
